US03944560
By replacing the 3-hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride employed in Step F of Example 1 by an equivalent quantity of 3-hydroxy-3-(1-aminoethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride and employing the same reaction conditions called for in Example 1, Step F, there is obtained 3-hydroxy-3-(1-isopropylaminoethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride, M.P. 206°-211° C. It was purified by recrystallization from ethanol giving a product of M.P. 215°-7° .

reactant | 3-hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride | Cl.OC1(COC2=C(OC1)C=CC=C2)CN
reactant | 3-hydroxy-3-(1-aminoethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride | Cl.OC1(COC2=C(OC1)C=CC=C2)C(C)N
product | 3-hydroxy-3-(1-isopropylaminoethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride | Cl.OC1(COC2=C(OC1)C=CC=C2)C(C)NC(C)C | InChI=1S/C14H21NO3.ClH/c1-10(2)15-11(3)14(16)8-17-12-6-4-5-7-13(12)18-9-14;/h4-7,10-11,15-16H,8-9H2,1-3H3;1H
